US07230020B2
Reaction of 4-aminoacetophenone (76 mg, 0.56 mmol) in THF (6 mL) with 3,5-dichlorobenzoyl chloride (145 mg, 0.69 mmol) in presence of triethylamine (90 μL, 0.65 mmol) according to method A gave N-(4-acetyl-phenyl)-3,5-dichloro-benzamide (145 mg, 0.47 mmol, 84% yield) as a white powder after washing by dichloromethane.

reactant | 4-aminoacetophenone | 0.56 mmol, 76 mg | CC(=O)C1=CC=C(C=C1)N | C8H9NO
reactant | 3,5-dichlorobenzoyl chloride | 0.69 mmol, 145 mg | ClC=1C=C(C(=O)Cl)C=C(C1)Cl | C7H3Cl3O
reactant | triethylamine | 0.65 mmol, 90 μL | C(C)N(CC)CC | C6H15N
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | N-(4-acetyl-phenyl)-3,5-dichloro-benzamide | 0.47 mmol, 145 mg, 84% yield | C(C)(=O)C1=CC=C(C=C1)NC(C1=CC(=CC(=C1)Cl)Cl)=O | C15H11Cl2NO2
